US04889856
Step A: Preparation of 2-Ethyl-4-hydroxythieno[3,2-d]pyrimidine
Methyl 3-amino-2-thiophenecarboxylate (4.67 g,) and propionamidine (3 g,) were combined and heated in an oil both for 1/2 hour at 60° C.; 1/2 hour at 80° C.; 1/2 hour at 100° C. and finally for 4 hours at 120° C. The mixture was cooled, triturated with ether, filtered and washed with ether to obtain 0.67 g of the product; m.p. 233°-237° C.

reactant | Methyl 3-amino-2-thiophenecarboxylate | 4.67 g | NC1=C(SC=C1)C(=O)OC | C6H7NO2S
reactant | propionamidine | 3 g | C(CC)(=N)N | C3H8N2
product | 2-Ethyl-4-hydroxythieno[3,2-d]pyrimidine | 0.67 g | C(C)C=1N=C(C2=C(N1)C=CS2)O | C8H8N2OS
